US08957064B2
2-cyclopropyl-6-(4-fluorophenyl)-5-(4-{4-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-[1,2,4]triazolo[1,5-a]pyrimidine
154 mg (0.49 mmol) 2-Methyl-6-(5-piperidine-4-yl-2H-[1,2,4]triazole-3-yl)-pyridine×2HCl are dissolved in 4.2 mL NMP. After addition of 0.16 mL triethylamine the reaction mixture is stirred for one hour. 350 mg (50% pure) 2-Cyclopropyl-4-[6-(4-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]-benzaldehyde and 0.05 mL acetic acid are added. The reaction mixture is stirred over night at room temperature. 113 mg (0.54 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature for 18 hours. The reaction mixture is treated with saturated NaHCO3 and stirred for 20 minutes. The precipitate is filtered off, washed with water and dried. After chromatography of the precipitate on silica gel (dichloromethane/methanol) 192.2 mg (63.8%) of the desired product are obtained.

reactant | 2-Methyl-6-(5-piperidine-4-yl-2H-[1,2,4]triazole-3-yl)-pyridine | 0.49 mmol, 154 mg | CC1=NC(=CC=C1)C=1NN=C(N1)C1CCNCC1 | C13H17N5
reactant | 2-Cyclopropyl-4-[6-(4-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]-benzaldehyde | 350 mg | C1(CC1)C1=C(C=O)C=CC(=C1)C1=NC=2N(C=C1C1=CC=C(C=C1)F)N=CN2 | C21H15FN4O
reactant | NaBH(OAc)3 | 0.54 mmol, 113 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 4.2 mL | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.05 mL | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.16 mL | C(C)N(CC)CC | C6H15N
product | 2-cyclopropyl-6-(4-fluorophenyl)-5-(4-{4-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-[1,2,4]triazolo[1,5-a]pyrimidine | C1(CC1)C1=NN2C(N=C(C(=C2)C2=CC=C(C=C2)F)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C2=NC(=CC=C2)C)=N1 | C34H32FN9
